US05021412
(3) 4-Pentafluoroethylbenzyl isothiocyanate
4.7 g of 4-pentafluoroethylbenzylamine was added dropwise to a mixture of 4.8 g of DCC, 20 ml of carbon disulfide and 50 ml of diethyl ether with stirring at -10° C. The temperature of the mixture was returned to room temperature, and it was left to stand for 12 hours.

reactant | 4-pentafluoroethylbenzylamine | 4.7 g | FC(C(F)(F)F)(C1=CC=C(CN)C=C1)F | C9H8F5N
reactant | DCC | 4.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | carbon disulfide | 20 ml | C(=S)=S | CS2
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-Pentafluoroethylbenzyl isothiocyanate | FC(C(F)(F)F)(C1=CC=C(CN=C=S)C=C1)F | C10H6F5NS
